US04743703
C. 2-nitro-5-(2-chloro-4-pentafluoroethylphenoxy)benzoic acid
A 50 ml 3-neck round bottom flash was charged with 2.5 gm (6.83 mmol) of 3-(2-chloro-4-pentafluoroethylphenoxy)benzoic acid, 2.18 gm (2.08 ml, 36.19 mmol) of glacial acetic acid, 2.1 gm (20.49 mmol) of acetic anhydride and 70 mg (683 mmol) of concentrated sulfuric acid. The resulting slurry was stirred vigorously while cooling to 0°-5° C. with the aid of an icewater bath. To the cooled slurry was added dropwise a mixture 280 mg (2.73 mmol) of concentrated sulfuric acid and 620 mg (9.56 mmol) to 97% nitric acid (red fuming). The yellow solution was maintained at 0°-5° C. for about 1.5 hours at which time the reaction mixture was poured into stirred ice water. The gummy residue that formed in the bottom of the flask was extracted with 100 ml of ether, the ether layer separated, and the aqueous acid layer reextracted with a second portion of ether. The combined ether layers were washed with brine, dried and evaporated in vacuo leaving a yellow oil. Much of the yellow color was removed by dissolving the oil in 300 ml of chloroform and eluting through a pad of silica gel. Evaporation of the eluent yielded 2.36 gm (83.9%) of a light yellow oil which crystallized on standing. The product had the following elemental analysis, calculated (found): C: 43.76 (44.43); H: 1.71 (2.24); Cl: 8.61 (8.83); F: 23.07 (18.90); N: 3.40 (2.47); O: 19.43.

reactant | 3-(2-chloro-4-pentafluoroethylphenoxy)benzoic acid | 6.83 mmol, 2.5 gm | ClC1=C(OC=2C=C(C(=O)O)C=CC2)C=CC(=C1)C(C(F)(F)F)(F)F | C15H8ClF5O3
reactant | acetic acid | 36.19 mmol, 2.08 ml, 2.18 gm | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 20.49 mmol, 2.1 gm | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 683 mmol, 70 mg | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 2.73 mmol, 280 mg | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 2-nitro-5-(2-chloro-4-pentafluoroethylphenoxy)benzoic acid | 2.36 gm, 83.9% | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)OC1=C(C=C(C=C1)C(C(F)(F)F)(F)F)Cl | C15H7ClF5NO5
